US07696193B2
1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-2-imidazolidinone (E262)
The title compound was prepared from 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E207) and 2-imidazolidinone using the method of Example 261; MS (ES+) m/e 379 [M+H]+.

reactant | 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)I | C19H21IN2O
reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
product | 1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-2-imidazolidinone | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)N2C(NCC2)=O | C22H26N4O2
